US04246429
A mixture of 3 parts of ethyl α-[(4-bromophenyl)amino]-2,3,6-trichlorobenzeneacetate and 4.5 parts of 2-chloroacetyl chloride is stirred for 4 hours at 80° C. The mixture is taken up twice in methylbenzene and the latter is evaporated each time. The oily residue solidifies on triturating in petroleumether. The latter is decanted and the residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding a first fraction of 1.7 parts of ethyl α-[(4-bromophenyl) (2-chloroacetyl)-amino]-2,3,6-trichlorobenzeneacetate; mp. 140.8° C. The mother liquor is concentrated and a second fraction of 1.2 parts of ethyl α-[(4-bromophenyl) (2-chloroacetyl)amino]-2,3,6-trichlorobenzeneacetate is filtered off.

reactant | ethyl α-[(4-bromophenyl)amino]-2,3,6-trichlorobenzeneacetate | BrC1=CC=C(C=C1)NC(C(=O)OCC)C1=C(C(=CC=C1Cl)Cl)Cl | C16H13BrCl3NO2
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | ethyl α-[(4-bromophenyl) (2-chloroacetyl)-amino]-2,3,6-trichlorobenzeneacetate | BrC1=CC=C(C=C1)N(C(C(=O)OCC)C1=C(C(=CC=C1Cl)Cl)Cl)C(CCl)=O | C18H14BrCl4NO3
